US07199265B2
Methyl[3,5-dichloro-4-(3-bromo-4-isobutyramidophenoxy)phenyl] acetate (100 mg) was reacted with tetramethyltin (40 mg), dichloro(1,2-bis(diphenylphosphino)butane)palladium(II), copper(II) oxide (16 mg) and dimethylformamide (3 mL) using the method described in Example 3. This gave 20 mg (23%) of methyl(3,5-dichloro-4-[4-isobutyr-amido-3-methylphenoxy]phenyl) acetate, which was hydrolyzed using the method described in Example 1(i), to give 17 mg (88%) of 3,5-dichloro-4-(4-isobutyramido-3-methyl-phenoxy)phenylacetic acid, m/z 396.

reactant | Methyl[3,5-dichloro-4-(3-bromo-4-isobutyramidophenoxy)phenyl] acetate | 100 mg | C(C)(=O)OC1=C(C(=C(C(=C1)Cl)OC1=CC(=C(C=C1)NC(C(C)C)=O)Br)Cl)C | C19H18BrCl2NO4
reactant | tetramethyltin | 40 mg | C[Sn](C)(C)C
reactant | methyl(3,5-dichloro-4-[4-isobutyr-amido-3-methylphenoxy]phenyl) acetate | 20 mg | C(C)(=O)OC1=C(C(=C(C(=C1)Cl)OC1=CC(=C(C=C1)NC(C(C)C)=O)C)Cl)C | C20H21Cl2NO4
catalyst | copper(II) oxide | 16 mg | [Cu]=O
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 3,5-dichloro-4-(4-isobutyramido-3-methyl-phenoxy)phenylacetic acid | 17 mg, 88% | ClC=1C=C(C=C(C1OC1=CC(=C(C=C1)NC(C(C)C)=O)C)Cl)CC(=O)O | C19H19Cl2NO4
